US05326692
Preparation of Novel Microparticles Using One Coumarin Dye and One Polyazaindacene Dye
To a vigorously stirred 200 mL suspension 0.282 micrometer carboxylate-modified latex (Interfacial Dynamics Corp., Portland, Oreg.; 2.10% solids in 50% v/v distilled water/methanol) is added a solution of 50 mg of coumarin 6 and 50 mg of Compound 1 dissolved in a homogeneous mixture of 9 mL of dichloromethane and 16 mL of absolute ethanol. The addition of the dye and purification of the product is carried out as described in EXAMPLE 3. Visual analysis of a dilute aqueous suspension of the product by fluorescence microscopy using standard fluorescein excitation and emission filters shows uniformly dyed particles that are highly monodisperse. Spectral analysis of the product, exciting at 430 nm shows the major emission peak to be centered at 512 nm. There is a smaller emission peak centered at 520 nm from the coumarin 6, indicating substantial, but not complete energy transfer.

reactant | water methanol | O.CO
reactant | coumarin 6 | 50 mg | CCN(CC)C1=CC2=C(C=C1)C=C(C(=O)O2)C3=NC4=CC=CC=C4S3 | C20H18N2O2S
reactant | fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | Coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
